US06602882B1
(a) 4-Benzylamino-1-tert-butoxycarbonyl-3-ethoxycarbonyl-1,2,5,6-tetrahydropyridine
A solution of 1-tert-butoxycarbonyl-3-ethoxycarbonylpiperidin-4-one (prepared from 3-ethoxycarbonylpiperidin-4-one and di-tert-butyl-dicarbonate in dichloromethane and triethylamine) (25 g) and benzylamine (10.85 g) in toluene was heated under reflux in a Dean and Stark apparatus for 18 hours and then evaporated to dryness to give an oil.

reactant | 1-tert-butoxycarbonyl-3-ethoxycarbonylpiperidin-4-one | 25 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(=O)OCC | C13H21NO5
reactant | benzylamine | 10.85 g | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Benzylamino-1-tert-butoxycarbonyl-3-ethoxycarbonyl-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)NC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C20H28N2O4
